Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3](=[O:4])=[C:5]([H:6])[H:7]>>[C:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-0.667993102461
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13],5.144905194830001
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]#[C:5][H:6].[H:1][C:2](=[C:3][C:8]([H:9])([H:10])[H:11])[H:7],6.00968497543
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-4.53923339776
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10],1.39112964551
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[H:1][O:2],6.49465236378
[H:11].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.82441239324
[C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-8.12653378692
[H:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[H:10].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-1.6519257097600002
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],3.61483783917
[C:7]([H:8])[H:9].[H:1][O:2][C:3][C:4]#[C:5][H:6]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-6.88758105204
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],6.11929689543
[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][C:4][O:9][H:10]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-5.19290692945
[C:3]=[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.4195935397
[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7][H:8].[H:9],5.186316628219999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10].[O:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-6.42425202504
[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.59780851135
[H:1][C:2][O:3][C:4]([H:5])[H:6].[O:7]=[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-0.69796658241
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:11])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:10]#[C:12][H:13],1.43858037019
[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.42978587036
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],3.73919825762
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],2.9874190134500003
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-2.42111233479
[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.70463106724
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],-4.9905742621
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12],5.23417132634
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:13].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12],4.63124683738
[H:1][C:2]#[C:3][C:4]#[C:5][C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.2624774266000003
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:4],1.83583451964
